US07012075B2
To tert-butyl 4-{4′-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino][1,1′-biphenyl]-4-yl}-1-piperazinecarboxylate (122 mg, 0.242 mmol) in dry TB (5 mL) under dry nitrogen was gradually added a total of 10 equivalents of MeSO3H (160 μL, 2.42 mmol) over a period of 5 days in portions of 1–2 equivalents at a time. Aqueous sat. NaHCO3 was added carefully and the product was extracted with EtOAc (3×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (NH4OH/MeOH/CH2Cl2, 1.5/13.5/85) to afford (2S)-N-(cyanomethyl)-4-methyl-2-{[4′-(1-piperazinyl)[1,1′-biphenyl]-4-yl]amino}pentanamide. MS (+ESI): 406.9 [M+1]+.

reactant | tert-butyl 4-{4′-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino][1,1′-biphenyl]-4-yl}-1-piperazinecarboxylate | 0.242 mmol, 122 mg | C(#N)CNC(=O)[C@H](CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C29H39N5O3
reactant | MeSO3H | 2.42 mmol, 160 μL, 10 equivalents | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (2S)-N-(cyanomethyl)-4-methyl-2-{[4′-(1-piperazinyl)[1,1′-biphenyl]-4-yl]amino}pentanamide | C(#N)CNC([C@H](CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCNCC1)=O | C24H31N5O
